US07132426B2
Preparation of 3-[1-(2-Fluoro-4-methanesulfonyl-phenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-ylamino]-pyrrolidine-1-carboxylic acid isopropyl ester (Compound A142)
A mixture of [1-(2-fluoro-4-methanesulfonyl-phenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-yl-]-pyrrolidin-3-yl-amine (20 mg, 0.048 mmol), isopropylchloroformate (7.2 μL, 0.52 mmol), and triethylamine (20 μL, 0.144 mmol) in DMF (500 μL) was stirred for 2 hours at room temperature. The reaction was purified by HPLC to afford compound A142 as a white solid (9 mg, 41%). Exact mass calculated for C20H23FN6O4S 462.15 found 463.3 (MH+).

reactant | [1-(2-fluoro-4-methanesulfonyl-phenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-yl-]-pyrrolidin-3-yl-amine | 0.048 mmol, 20 mg | FC1=C(C=CC(=C1)S(=O)(=O)C)N1N=CC=2C1=NC=NC2NC2CNCC2 | C16H17FN6O2S
reactant | isopropylchloroformate | 0.52 mmol, 7.2 μL | C(C)(C)OC(=O)Cl | C4H7ClO2
reactant | triethylamine | 0.144 mmol, 20 μL | C(C)N(CC)CC | C6H15N
solvent | DMF | 500 μL | CN(C)C=O | C3H7NO
product | 3-[1-(2-Fluoro-4-methanesulfonyl-phenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-ylamino]-pyrrolidine-1-carboxylic acid isopropyl ester | 9 mg, 41% | C(C)(C)OC(=O)N1CC(CC1)NC1=C2C(=NC=N1)N(N=C2)C2=C(C=C(C=C2)S(=O)(=O)C)F | C20H23FN6O4S
